US08309721B2
Synthesis of 2-(2-carbamoylethylamino)-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 3 of Example 3, but using 300 mg of 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 296 mg of potassium carbonate, 1.779 g of beta-alanineamide hydrochloride and 1.445 g of triethylamine in 3 ml of dimethyl sulphoxide. 1.357 ml of a 1M aqueous solution of sodium hydroxide, 1.313 ml of a 30% aqueous solution of hydrogen peroxide and 7 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with mixtures of dichloromethane and ethanol (from 95/5 to 90/10 by volume), followed by crystallization from 10 ml of diisopropyl ether, 200 mg of 2-(2-carbamoylethylamino)-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of a beige solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)carbazol-9-yl]benzonitrile | 300 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C26H14F2N4
reactant | potassium carbonate | 296 mg | C([O-])([O-])=O.[K+].[K+]
reactant | beta-alanineamide hydrochloride | 1.779 g | Cl.NCCC(=O)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | triethylamine | 1.445 g | C(C)N(CC)CC | C6H15N
product | 2-(2-carbamoylethylamino)-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzamide | C(N)(=O)CCNC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C29H23FN6O2
